US07091220B2
[(5-Bromo-2-fluoro-phenyl)-(1-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-methylindole and (5-bromo-2-fluoro-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 24 from 5-bromo-2-fluoro-benzaldehyde and dimethylamine.

reactant | 1-methylindole | CN1C=CC2=CC=CC=C12 | C9H9N
reactant | (5-bromo-2-fluoro-benzylidene)-dimethyl-ammonium chloride | [Cl-].BrC=1C=CC(=C(C=[N+](C)C)C1)F
reactant | 5-bromo-2-fluoro-benzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | dimethylamine | CNC | C2H7N
product | [(5-Bromo-2-fluoro-phenyl)-(1-methyl-1H-indol-3-yl)-methyl]-dimethyl-amine | BrC=1C=CC(=C(C1)C(C1=CN(C2=CC=CC=C12)C)N(C)C)F | C18H18BrFN2
